US06239142B1
Methyl 5-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxythieno[2,3-b]pyridine-2-carboxylate
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxamide (2.61 g) from Example No. 2 in DMF (33 mL) are added triethylamine (1.6 mL), methanol (9.5 mL), Pd(OAc)2 (0.132 g), and dppp (0.242 g). Carbon monoxide is bubbled through the solution, and the reaction is heated to 70° C. The reaction is stirred at 70° C. for 18 h. The reaction mixture is cooled to rt, and water (25 mL) and 2 N HCl (25 mL) are added. The resulting precipitate is filtered off and purified by column chromatography (CH2Cl2; CH2Cl2/methanol, 99/1; 98/2). A mixture of starting material and desired product is isolated as a yellow solid. This material is re-subjected to the reaction conditions above. The reaction is stirred at 70° C. for 18 h. The reaction is cooled to rt and water (25 mL) and 2 N HCl (25 mL) are added. The resulting orange solid is filtered off and purified by column chromatography (CH2Cl2;

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxamide | 2.61 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)I)O)C=C1 | C15H10ClIN2O2S
reactant | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 9.5 mL | CO | CH4O
reactant | dppp | 0.242 g | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
reactant | DMF | 33 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.132 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 5-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxythieno[2,3-b]pyridine-2-carboxylate | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C(=O)OC)O)C=C1 | C17H13ClN2O4S
